US06693123B2
4-Nitro-2-(2-methylphenyl)benzoic acid methyl ester, prepared as in Example 178A, was saponified using aqueous NaOH—CH3OH to give 4-nitro-2-(2-methylphenyl)benzoic acid; HRMS calcd for C14H11NO4 257.0688, obsd 257.0699.

reactant | 4-Nitro-2-(2-methylphenyl)benzoic acid methyl ester | COC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)=O | C15H13NO4
reactant | NaOH CH3OH | [OH-].[Na+].CO
product | 4-nitro-2-(2-methylphenyl)benzoic acid | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=C(C=CC=C1)C | C14H11NO4
